US05817822
N-(t-Butyloxy)-2-(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-[(N-(2-(1-naphthyl)-ethoxycarbonyl))-4-piperidinyl]acetamide (3 g, 4.65 mmol) is dissolved in methylene chloride (100 ml) containing ethanol (0.27 ml, 4.6 mmol) and the reaction mixture is cooled to -10° C. Hydrochloric acid gas (from a lecture bottle) is bubbled trough the solution for 15 minutes. The flask is sealed, the reaction mixture is allowed to slowly warm to room temperature and stirred at room temperature for 6 days. The reaction mixture is concentrated in vacuo to provide N-hydroxy-2-(R)-[(4-methoxy-benzenesulfonyl) (4-picolyl)amino]-2- [(N-(2-(1-naphthyl)-ethoxycarbonyl))-4-piperidinyl]acetamide hydrochloride as a white solid, m.p. >137° C. (dec).

reactant | N-(t-Butyloxy)-2-(R)-[(4-methoxybenzenesulfonyl)(4-picolyl)amino]-2-[(N-(2-(1-naphthyl)-ethoxycarbonyl))-4-piperidinyl]acetamide | 4.65 mmol, 3 g | C(C)(C)(C)ONC([C@@H](C1CCN(CC1)C(=O)OCCC1=CC=CC2=CC=CC=C12)N(CC1=CC=NC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C37H44N4O7S
reactant | ethanol | 4.6 mmol, 0.27 ml | C(C)O | C2H6O
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-hydroxy-2-(R)-[(4-methoxy-benzenesulfonyl) (4-picolyl)amino]-2- [(N-(2-(1-naphthyl)-ethoxycarbonyl))-4-piperidinyl]acetamide hydrochloride | Cl.ONC([C@@H](C1CCN(CC1)C(=O)OCCC1=CC=CC2=CC=CC=C12)N(CC1=CC=NC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | InChI=1S/C33H36N4O7S.ClH/c1-43-28-9-11-29(12-10-28)45(41,42)37(23-24-13-18-34-19-14-24)31(32(38)35-40)27-15-20-36(21-16-27)33(39)44-22-17-26-7-4-6-25-5-2-3-8-30(25)26;/h2-14,18-19,27,31,40H,15-17,20-23H2,1H3,(H,35,38);1H/t31-;/m1./s1
